US04818277
A mixture of 2-[(1-methylethyl)sulfonyl]benzenesulfonamide (29 g, 0.11 mol), n-butylisocyanate (14.7 g, 0.15 mol) and anhydrous potassium carbonate (16.6 g, 0.120 mol) in methylethyl ketone (325 ml) was refluxed with stirring for 3 hours. The reaction mixture was cooled to 0° and then poured into ice-water. The aqueous solution was acidified to pH 1 with concentrated hydrochloric acid. The resulting precipitate was filtered, washed with water and recrystallized from ethanol to give N-[butylaminocarbonyl]-2-[(1-methylethyl)sulfonyl]benzenesulfonamide, m.p. 164.5°-165.5°.

reactant | 2-[(1-methylethyl)sulfonyl]benzenesulfonamide | 0.11 mol, 29 g | CC(C)S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N | C9H13NO4S2
reactant | n-butylisocyanate | 0.15 mol, 14.7 g | C(CCC)N=C=O | C5H9NO
reactant | potassium carbonate | 0.120 mol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methylethyl ketone | 325 ml | CC(=O)CC | C4H8O
product | N-[butylaminocarbonyl]-2-[(1-methylethyl)sulfonyl]benzenesulfonamide | C(CCC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C(C)C | C14H22N2O5S2
